US04088695
A solution (2.86 ml.) of methyl magnesium iodide in diethyl ether [prepared, in the manner well known in the art, from methyl iodide (6 g.), magnesium (1.07 g.) and diethyl ether (20 ml.)] was added dropwise to a stirred solution of 6-(7-trimethylsilyloxyheptyl)-7-(3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane (2.1 g.) in diethyl ether (80 ml.) at room temperature. The mixture was stirred for 30 minutes and a further quantity (1.09 ml. ) of the solution of methyl magnesium iodide in diethyl ether was then added dropwise. The mixture was stirred for a further 30 minutes and then added to saturated aqueous ammonium chloride solution (250 ml.) at 0° C. and stirred for 15 minutes. The ether layer was separated and the aqueous layer extracted with diethyl ether. The combined ether layers were concentrated in vacuo to give crude 7-(3-hydroxy-3-methyloct-1-enyl)-6-(7-trimethylsilyloxyheptyl)-1,4-dioxaspiro[4,4]nonane (1.9 g.), ν max 845 cm-1, 1250 cm-1, 3400 cm-1, pure enough to use in the next stage.

reactant | methyl magnesium iodide | 2.86 ml | C[Mg]I
reactant | methyl iodide | 6 g | CI | CH3I
reactant | magnesium | 1.07 g | [Mg] | Mg
reactant | 6-(7-trimethylsilyloxyheptyl)-7-(3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane | 2.1 g | C[Si](OCCCCCCCC1C2(OCCO2)CCC1C=CC(CCCCC)=O)(C)C | C25H46O4Si
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 7-(3-hydroxy-3-methyloct-1-enyl)-6-(7-trimethylsilyloxyheptyl)-1,4-dioxaspiro[4,4]nonane | 1.9 g | OC(C=CC1C(C2(OCCO2)CC1)CCCCCCCO[Si](C)(C)C)(CCCCC)C | C26H50O4Si
